US04791109
A solution of 2.5 g of 2-[(2-oxiranyl)methoxy]-N-(1H-indol-4-yl)-benzamide in 50 ml of ethanol in the presence of 1.147 g of cyclohexane methylamine was refluxed for 2 hours and 15 minutes and the solvent was evaporated under reduced pressure. The residue was chromatographed over silica (eluent: methylene chloride--methanol, 9-1) to obtain 1.97 g of 2-[3-(cyclohexylmethyl)amino]-2-hydroxypropoxy]-N-(1H-indol-4-yl)-benzamide.

reactant | 2-[(2-oxiranyl)methoxy]-N-(1H-indol-4-yl)-benzamide | 2.5 g | O1C(C1)COC1=C(C(=O)NC2=C3C=CNC3=CC=C2)C=CC=C1 | C18H16N2O3
reactant | cyclohexane methylamine | 1.147 g | C1(CCCCC1)CN | C7H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(1H-indol-4-yl)-benzamide | N1C=CC2=C(C=CC=C12)NC(C1=CC=CC=C1)=O | C15H12N2O
